US07074817B2
Following the procedure described in Step 2 of Example 5, 6-bromo-1-methyl-1H-indole (1.12 g , 5.33 mmol) was coupled to 4-(tert-butyl)phenylboronic acid (1.07 g, 6.00 mmol), using tetrakis(triphenylphosphine)palladium (0.655 g, 0.567 mmol), and potassium carbonate (2.94 g, 21.3 mmol) in water (10.6 mL), ethanol (2.2 mL), and toluene (23 mL). Purification by flash chromatography (Biotage apparatus) using 0-1% ethyl acetate in hexane as an eluant then drying at 60° C. yielded 6-[4-(tert-butyl)phenyl]-1-methyl-1H-indole as a yellow solid (0.790 g, 56%), mp: 92-94° C. 1HNMR (200 MHz, DMSO-d6): δ 7.55-7.7 (m, 5H), 7.45 (d, 2H, J=7.5 Hz), 7.3 (d, 2H, J=8.5 Hz), 6.6 (d, 1H, J=3.5 Hz), 3.9 (s, 3H), and 1.3 ppm (s, 9H).

reactant | 6-bromo-1-methyl-1H-indole | 5.33 mmol, 1.12 g | BrC1=CC=C2C=CN(C2=C1)C | C9H8BrN
reactant | 4-(tert-butyl)phenylboronic acid | 6.00 mmol, 1.07 g | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
reactant | potassium carbonate | 21.3 mmol, 2.94 g | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 23 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 10.6 mL | O | H2O
solvent | ethanol | 2.2 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 0.567 mmol, 0.655 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-[4-(tert-butyl)phenyl]-1-methyl-1H-indole | 0.790 g, 56% | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C2C=CN(C2=C1)C | C19H21N
